US09029536B2
D) 2-(4-Bromophenoxy)-1H-benzo[d]imidazole
A mixture of 2-(methylsulfonyl)-1H-benzo[d]imidazole (5.6 g), 4-bromophenol (24.69 g) and TEA (19.89 mL) was stirred at 120° C. for 15 h. The mixture was added with 8 M NaOH aqueous solution and extracted with AcOEt. The organic layer was separated, washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure. The precipitate was collected by filtration to give the first lot of the titled compound (5.77 g). The filtrate was evaporated, and the precipitate was collected by filtration to give the second lot of the titled compound (0.92 g).

reactant | 2-(methylsulfonyl)-1H-benzo[d]imidazole | 5.6 g | CS(=O)(=O)C1=NC2=C(N1)C=CC=C2 | C8H8N2O2S
reactant | 4-bromophenol | 24.69 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | NaOH | 8 M | [OH-].[Na+]
product | 2-(4-Bromophenoxy)-1H-benzo[d]imidazole | 5.77 g | BrC1=CC=C(OC2=NC3=C(N2)C=CC=C3)C=C1 | C13H9BrN2O
